US08648066B2
2-Amino-5-bromopyridine-3-sulfonyl chloride (reagent preparation 25) (95.5 mg, 0.35 mmol) was treated with 0.5M ammonia in dioxane solution (7 mL) and the mixture was stirred for 1 h at room temperature. Concentrated aqueous ammonia (2 mL) was then added to the mixture then stirred an additional 12 h. The mixture was then concentrated and the residue suspended in water (5 mL). The solid was collected by filtration and dried to give 2-amino-5-bromopyridine-3-sulfonamide (55.7 mg, 89%).

reactant | 2-Amino-5-bromopyridine-3-sulfonyl chloride | 0.35 mmol, 95.5 mg | NC1=NC=C(C=C1S(=O)(=O)Cl)Br | C5H4BrClN2O2S
reactant | ammonia | 0.5M | N | H3N
reactant | ammonia | 2 mL | N | H3N
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 2-amino-5-bromopyridine-3-sulfonamide | 55.7 mg, 89% | NC1=NC=C(C=C1S(=O)(=O)N)Br | C5H6BrN3O2S
